* converter #2 netlist file automatically generated 
* USE Sweep 141

V0 1 0 {V0_value} 
S0 2 0 GS0 0 Ideal_switch 
S1 3 4 GS1 0 Ideal_switch 
S2 5 6 GS2 0 Ideal_switch 
S3 6 3 GS3 0 Ideal_switch 
S4 7 4 GS4 0 Ideal_switch 
D0 3 8 Ideal_D 
D1 9 6 Ideal_D 
D2 10 9 Ideal_D 
D3 1 7 Ideal_D 
C0 6 10 {C0_value} 
C1 5 2 {C1_value} 
C2 7 5 {C2_value} 
C3 8 3 {C3_value} 
C4 4 10 {C4_value} 
C5 9 4 {C5_value} 
L0 8 2 {L0_value} 
L1 1 7 {L1_value} 
L2 9 1 {L2_value} 
R0 5 2 {R0_value} 

.PARAM V0_value = 10  
V_GS0 GS0 0 pulse (-1 1 0 0 0 5u 10u 10000)
V_GS1 GS1 0 pulse (-1 1 0 0 0 5u 10u 10000)
V_GS2 GS2 0 pulse (-1 1 0 0 0 5u 10u 10000)
V_GS3 GS3 0 pulse (-1 1 0 0 0 5u 10u 10000)
V_GS4 GS4 0 pulse (-1 1 0 0 0 5u 10u 10000)
.PARAM C0_value = 10u  
.PARAM C1_value = 10u  
.PARAM C2_value = 10u  
.PARAM C3_value = 10u  
.PARAM C4_value = 10u  
.PARAM C5_value = 10u  
.PARAM L0_value = 1m  
.PARAM L1_value = 1m  
.PARAM L2_value = 1m  
.PARAM R0_value = 10  

.model Ideal_switch SW (Ron=1m Roff=10Meg Vt=0 Vh=0 Lser=0 Vser=0)
.model Ideal_D D


.tran 0 15m 0 100n
.save V(*) I(*)
.backanno
.end
